US07560549B2
Optically Active 2-[3-(3,4-dichlorophenyl)-1-(3,4,5-trimethoxybenzoyl)piperidin-3-yl]ethyl 4-chlorobenzenesulfonate
To a solution of (+)-2-[3-(3,4-dichlorophenyl)piperidin-3-yl]ethanol (1.70 g, 6.20 mmol) in tetrahydrofuran (85 ml) was added triethylamine (1.30 ml, 9.35 mmol), and the resulting mixture was cooled to 0-5° C. After cooling, a solution of 3,4,5-trimethoxybenzoyl chloride (1.46 g, 6.33 mmol) in tetrahydrofuran (7 ml) was further added dropwise at below 5° C., and the resulting mixture was stirred at 0-5° C. for 5 hours and then evaporated to dryness in vacuo. Subsequently, to the residue obtained were added methylene chloride (50 ml), triethylamine (1.30 ml, 9.35 mmol) and 4-dimethylaminopyridine (0.076 g, 0.62 mmol), and the resulting mixture was cooled to 0-5° C. After cooling, a solution of 4-chlorobenzenesulfonyl chloride (1.57 g, 7.44 mmol) in methylene chloride (3.5 ml) was further added dropwise at below 5° C., and the resulting mixture was stirred at 0-5° C. for 5 hours. After completion of the reaction, water (50 ml) and concentrated hydrochloric acid (2 ml) were added to the reaction mixture, and the resulting mixture was partitioned. The separated organic layer was washed with water (50 ml) and evaporated in vacuo. The residue obtained was purified by chromatography on a silica gel column and then crystallized from a mixed solvent of ethyl acetate (6.6 ml) and hexane (17.7 ml) under ice-cooling to afford the title compound [3.0 g, yield: 76.3%] as a colorless crystalline solid.

reactant | (+)-2-[3-(3,4-dichlorophenyl)piperidin-3-yl]ethanol | 6.20 mmol, 1.70 g | ClC=1C=C(C=CC1Cl)C1(CNCCC1)CCO | C13H17Cl2NO
reactant | triethylamine | 9.35 mmol, 1.30 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4,5-trimethoxybenzoyl chloride | 6.33 mmol, 1.46 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | triethylamine | 9.35 mmol, 1.30 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzenesulfonyl chloride | 7.44 mmol, 1.57 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | tetrahydrofuran | 85 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.62 mmol, 0.076 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 3.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 2-[3-(3,4-dichlorophenyl)-1-(3,4,5-trimethoxybenzoyl)piperidin-3-yl]ethyl 4-chlorobenzenesulfonate | 3.0 g, yield: 76.3% | ClC1=CC=C(C=C1)S(=O)(=O)OCCC1(CN(CCC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C1=CC(=C(C=C1)Cl)Cl | C29H30Cl3NO7S
